US07504408B2
N-{5-chloro-7-[3-(2methoxyethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-yl}-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine
This was prepared using the method described in example 4 using 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline (200 mg, 0.59 mmol), 5-chloro-7-[3-(2-methoxyethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-amine (185 mg, 0.65 mmol) and a solution of sodium bis(trimethylsilyl)amide (1.0M in THF, 1.24 ml) in DMF (3 ml). The crude product was purified by column chromatography on silica using increasing concentrations of methanol in dichloromethane as eluent. There was thus obtained the title compound (268 mg, 77%) as a pale yellow solid; NMR Spectrum: (DMSOd6) 1.99 (quintet, 2H), 2.40 (m, 4H), 2.49 (t, 2H), 3.30 (s,3H), 3.52 (m, 2H), 3.59 (m, 4H), 3.65 (m, 2H), 3.93 (s, 3H), 4.20 (t, 2H), 4.44 (s, 2H), 6.16 (s, 2H), 7.16 (s, 1H), 7.19 (s, 1H), 7.82 (s, 1H), 8.32 (s, 1H), 9.5 (s, 1H); Mass Spectrum: M+H+ 585/587.

reactant | 4-chloro-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazoline | 0.59 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C16H20ClN3O3
reactant | 5-chloro-7-[3-(2-methoxyethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-amine | 0.65 mmol, 185 mg | ClC1=C(C2=C(OCO2)C(=C1)C#CCOCCOC)N | C13H14ClNO4
reactant | sodium bis(trimethylsilyl)amide | 1.0M, 1.24 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | N-{5-chloro-7-[3-(2methoxyethoxy)prop-1-yn-1-yl]-1,3-benzodioxol-4-yl}-6-methoxy-7-(3-morpholin-4-ylpropoxy)quinazolin-4-amine | 268 mg, 77% | ClC1=C(C2=C(OCO2)C(=C1)C#CCOCCOC)NC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCOCC1 | C29H33ClN4O7
